US08278401B2
Synthesis of hydroquinone diglycidyl ether (HDGE):
Epichlorohydrin (222 g, 2.4 mol), isopropyl alcohol (120 mL), and hydroquinone (33 g, 0.3 mol) were added to a four-neck 1 L round bottom flask equipped with a condenser, mechanical stirrer, nitrogen source, and an addition funnel containing 28.8 g NaOH in 40 g water. While purging with nitrogen, NaOH solution was added dropwise and the reaction was then heated to 75-83° C. The solution color changed from dark brown to yellow with white solid precipitate after 6 hours. The solution was filtered and the solvents removed to give a viscous yellow liquid, which solidified on cooling and was collected. The product was recrystallized in isopropyl alcohol twice, then distilled under vacuum to give a white solid upon cooling. 1H NMR (CDCl3): δppm 2.7-2.9 (4H), 3.3-3.4 (2H), 3.9-4.2 (4H), 6.9 (4H).

reactant | Epichlorohydrin | 2.4 mol, 222 g | C(Cl)C1CO1 | C3H5ClO
reactant | isopropyl alcohol | 120 mL | C(C)(C)O | C3H8O
reactant | hydroquinone | 0.3 mol, 33 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | NaOH | 28.8 g | [OH-].[Na+]
solvent | water | 40 g | O | H2O
product | hydroquinone diglycidyl ether | C=1(O)C2=C(C(O)=CC1)C1C(COCC3C2O3)O1 | C12H12O5
